US09079866B2
5-[4-(2-Aminopyridin-3-yl)-2-fluorophenyl]pyrimidin-2-amine
The title compound was prepared in a manner similar to that described in Example 88 using 3-bromopyridin-2-amine and 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine. MS (ESI): mass calcd. for C15H12FN5, 281.11; m/z found, 282.1 [M+H]+. 1H NMR (500 MHz, CD3OD) δ 8.64-8.54 (m, 1H), 8.00-7.89 (m, 1H), 7.74-7.64 (m, 1H), 7.46-7.36 (m, 1H), 7.09-7.03 (m, 1H).

reactant | 3-bromopyridin-2-amine | BrC=1C(=NC=CC1)N | C5H5BrN2
reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
product | 5-[4-(2-Aminopyridin-3-yl)-2-fluorophenyl]pyrimidin-2-amine | NC1=NC=CC=C1C1=CC(=C(C=C1)C=1C=NC(=NC1)N)F | C15H12FN5
